US03947569
2-[(L-Prolyl)Amino]Acetamide Hydrochloride
A solution of 2-[(N-carboxy-L-prolyl)amino]acetamide N-benzyl ester (Ex. 9, 610 mg, 2 mmoles) in glacial acetic acid (8 ml) containing hydrogen chloride (2 mmoles) is agitated with palladium on charcoal (5%, 50 mg) in an atmosphere of hydrogen in the same manner as described in Example 6 until one molar equivalent of hydrogen has been consumed. Filtration, evaporation of the filtrate and drying of the residue under reduced pressure gives the title compound which is used as such in the subsequent step.

reactant | 2-[(N-carboxy-L-prolyl)amino]acetamide N-benzyl ester | 2 mmoles, 610 mg | C(C1=CC=CC=C1)NC(CNC([C@H]1N(CCC1)C(=O)O)=O)=O | C15H19N3O4
reactant | hydrogen chloride | 2 mmoles | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | 2-[(L-Prolyl)Amino]Acetamide Hydrochloride | Cl.N1[C@H](C(=O)NCC(=O)N)CCC1 | InChI=1S/C7H13N3O2.ClH/c8-6(11)4-10-7(12)5-2-1-3-9-5;/h5,9H,1-4H2,(H2,8,11)(H,10,12);1H/t5-;/m0./s1
